US07354933B2
Preparation of (R)-5-(4-hydroxybenzyl)-1-quinol-4-ylmethyl-3-(4-trifluoromethanesulfonylphenyl)imidazolidine-2,4-dione trifluoroacetate
The compound is prepared from 0.05 mmol of resin, 0.15 mmol of N-Fmoc-D-Tyr(OH), 0.25 mmol of 4-quinolinecarboxaldehyde and 0.125 mmol of 4-(trifluoromethanesulfonyl)aniline, in the same way as in Example 1. After purification by preparative LC-MS, 1.8 mg of expected product are obtained.

reactant | N-Fmoc-D-Tyr(OH) | 0.15 mmol | N([C@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C24H21NO5
reactant | 4-quinolinecarboxaldehyde | 0.25 mmol | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | 4-(trifluoromethanesulfonyl)aniline | 0.125 mmol | FC(S(=O)(=O)C1=CC=C(N)C=C1)(F)F | C7H6F3NO2S
product | (R)-5-(4-hydroxybenzyl)-1-quinol-4-ylmethyl-3-(4-trifluoromethanesulfonylphenyl)imidazolidine-2,4-dione trifluoroacetate | FC(C(=O)O)(F)F.OC1=CC=C(C[C@@H]2C(N(C(N2CC2=CC=NC3=CC=CC=C23)=O)C2=CC=C(C=C2)S(=O)(=O)C(F)(F)F)=O)C=C1 | InChI=1S/C27H20F3N3O5S.C2HF3O2/c28-27(29,30)39(37,38)21-11-7-19(8-12-21)33-25(35)24(15-17-5-9-20(34)10-6-17)32(26(33)36)16-18-13-14-31-23-4-2-1-3-22(18)23;3-2(4,5)1(6)7/h1-14,24,34H,15-16H2;(H,6,7)/t24-;/m1./s1
